US07816520B2
Synthesis of Diethyl Isophthalimidate (WP73)
A suspension of isophthalonitrile (12.81 g, 100 mmol) in a mixture of dry 1,4-dioxane (100 ml)/absolute ethanol (14.6 ml) cooled to 0° C. is bubbled with HCl gas for 48 hours, during which time the temperature returns to ambient temperature. After 4 additional days of stirring, the white solid obtained (approximately 28 grams of di-chlorohydrate salt) is filtered and washed with diethyl ether. The neutralization of this salt placed in suspension in diethyl ether is carried out by slowly adding potassium an aqueous carbonate solution (30% by weight) up to basic pH. The organic phase is separated, dried on MgSO4, filtered and concentrated under reduced pressure to yield a white solid (yield>90%). δH (300 MHz, CDCl3) 1.44 (t; J 6.9; 6H), 4.32 (q; J 6.9; 4H), 7.47 (t; J 7.5; 1H), 7.86 (d; J 7.5; 2H), 8.16 (s; 1H); SM (Electrospray) m/z 221 (MH+, 100%).

reactant | isophthalonitrile | 100 mmol, 12.81 g | C(C1=CC(C#N)=CC=C1)#N | C8H4N2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Diethyl Isophthalimidate | approximately 28 grams | C(C1=CC(C(OCC)=N)=CC=C1)(OCC)=N | C12H16N2O2
